US09085534B2
3-[(4-fluorobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 55% yield from 4-fluorobenzylamine and 4-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. NMR (500 MHz, DMSO-d6): δ 13.45 (br s, 1H), 8.11 (s, 1H), 8.03 (br s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.58 (d, 1H, J=5.0 Hz), 7.36-7.42 (m, 1H), 7.16-7.23 (m, 2H), 7.05-7.11 (m, 1H), 4.60 (s, 2H). [M+H] calc'd for C13H11FN2O2, 247; found 247.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 4-fluoroisonicotinic acid | FC1(C(=O)O)CC=NC=C1 | C6H6FNO2
product | 3-[(4-fluorobenzyl)amino]pyridine-4-carboxylic acid | 55% yield | FC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C13H11FN2O2
